US07732618B2
b.) {5-[(4-Cyano-benzyl)-(4-fluoro-benzenesulfonyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid.
{5-[(4-Cyano-benzyl)-(4-fluoro-benzenesulfonyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid tert-butyl ester was treated with TFA (2 mL) for 2 hours, concentrated, and purified by preparative LCMS to give the title compound. 1H NMR (d6-DMSO) δ7.72 (m, 4H), 7.48 (m, 4H), 7.16 (m, 2H), 6.78 (m, 1H), 4.92 (s, 2H), 4.33 (s, 2H), 2.65 (t, 2H), 1.71 (m, 2H), 0.95 (t, 3H). MS calculated for C26H23FN4O4S+H: 507, observed: 507.

reactant | {5-[(4-Cyano-benzyl)-(4-fluoro-benzenesulfonyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C(=NC2=C1C=CC(=C2)N(S(=O)(=O)C2=CC=C(C=C2)F)CC2=CC=C(C=C2)C#N)CCC)=O | C30H31FN4O4S
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | {5-[(4-Cyano-benzyl)-(4-fluoro-benzenesulfonyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid | C(#N)C1=CC=C(CN(C2=CC3=C(N(C(=N3)CCC)CC(=O)O)C=C2)S(=O)(=O)C2=CC=C(C=C2)F)C=C1 | C26H23FN4O4S
